US04711903
3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl thiocyanate
To a three-necked, round bottom 5 L flask, equipped with a mechanical stirrer, gas inlet, thermometer and gas inlet, was added 2,6-di-tert-butylphenol (474 g, 2.30 mole), ammonium thiocyanate (76.12 g, 4.83 mole) and methanol (1200 ml). The reaction mixture was stirred and cooled to 0° C. in an ice/salt bath. Maintaining the temperature at 0° to 10° C., chlorine gas was slowly bubbled through the mixture for about 1 hour whereupon the reaction mixture was a heterogeneous yellow color. Ammonia was then bubbled through the reaction for about 1 and 1/2 hours, maintaining the reaction mixture at a temperature of between 0° to 10° C. The reaction was stirred for an additional hour at 0° C., poured into 2 L of cold distilled water and refrigerated overnight. The aqueous phase was decanted and the solid taken up in methanol, precipitated by addition of water, filtered and dried for 2 days over phosphorous pentoxide. The resulting gummy yellow solid was recrystallized from pentane and dried in vacuo to yield the product as a white powder, m.p. 61.5°-63° C.

reactant | 2,6-di-tert-butylphenol | 2.30 mole, 474 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | ammonium thiocyanate | 4.83 mole, 76.12 g | [S-]C#N.[NH4+]
solvent | methanol | 1200 ml | CO | CH4O
product | 3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl thiocyanate | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC#N | C15H21NOS
